US03959289
Dimethyl-10-chloro-1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylate
11.0 g. of dimethylacetylene dicarboxylate is added dropwise to a solution of 5.25 g. of 2-chloro-1,3-diaminobenzene in 100 ml. of methanol at room temperature. The mixture is stirred for 2 hours at room temperature and the resulting yellow solid is collected by filtration. The solid is washed with 20 to 50 ml. of methanol, dried under vacuum at 60° C., and recrystallized from acetone. The tetramethyl[2-chloro-m-phenylene-diamino]dimaleate melts at 202.5°-204.5°C.

reactant | dimethylacetylene dicarboxylate | COC(=O)C#CC(=O)OC | C6H6O4
reactant | 2-chloro-1,3-diaminobenzene | ClC1=C(C=CC=C1N)N | C6H7ClN2
solvent | methanol | CO | CH4O
product | Dimethyl-10-chloro-1,4,6,9-tetrahydro-4,6-dioxopyrido[3,2-g]quinoline-2,8-dicarboxylate | COC(=O)C=1NC2=C(C3=C(C=C2C(C1)=O)C(C=C(N3)C(=O)OC)=O)Cl | C16H11ClN2O6
